US06288061B1
Ethyl 5-(4-methoxyphenyl)-2-(3-methyl-4-nitrophenyl)-imidazole-4-carboxylate (29 g) was dissolved in ethanol and 2 M sodium hydroxide solution was added. The mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-methoxyphenyl)-2-(3-methyl-4-nitrophenyl)imidazole-4-carboxylic acid (20.9 g), melting point 229-230° C.

reactant | Ethyl 5-(4-methoxyphenyl)-2-(3-methyl-4-nitrophenyl)-imidazole-4-carboxylate | 29 g | COC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C(=O)OCC | C20H19N3O5
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-methoxyphenyl)-2-(3-methyl-4-nitrophenyl)imidazole-4-carboxylic acid | 20.9 g | COC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C(=O)O | C18H15N3O5
